2182-05-21 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2182-5-20**] 08:00 AM
 SPUTUM CULTURE - At [**2182-5-20**] 09:50 AM
 NASAL SWAB - At [**2182-5-20**] 10:51 AM
 BRONCHOSCOPY - At [**2182-5-20**] 02:19 PM
   trach changed. bal done. 25 mcg fent and .5 mg midaz given
 PICC LINE - START [**2182-5-20**] 02:23 PM
 EKG - At [**2182-5-20**] 05:38 PM
 FEVER - 101.3
F - [**2182-5-20**] 08:15 AM
   - IP changed trach to same size model; air leak has resolved for now;
   recommend check BNP (elevated)
   - Troponin increased 0.62 -> 1.47 with second set; repeat EKG in PM
   showed T-wave inversions in V2-V5 new from AM EKG. Started on heparin
   gtt and increased aspirin to full and statin to 80 mg. 3rd set of
   enzymes showed trop 1.70 but CK trending down.
   - Started on insulin gtt for DKA; gap closed with PM labs to 12. Pt
   became hypoglycemic in evening to 59, so gtt stopped; glargine 25 units
   given after sugars normalized [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] recs.
   - Called by micro lab to report aerobic bottle from early AM with GPC
   in pairs/clusters. Patient already on vanco/cefepime/flagyl so no
   changes made.
   - Nursing noted multiple runs of VT (9-10 beats each). No sustained
   arrhythmia.
   - PM dose of tacro held per renal recs.
   - Code status NOT confirmed with family (better to do in person, as
   wife has difficulty with language barrier over phone) but full code for
   now per last admission.
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2182-5-21**] 02:26 AM
   Cefipime - [**2182-5-21**] 05:33 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2182-5-20**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2182-5-20**] 12:00 PM
   Midazolam (Versed) - [**2182-5-20**] 02:15 PM
   Fentanyl - [**2182-5-20**] 02:15 PM
   Heparin Sodium - [**2182-5-20**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-21**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.4
C (97.6
   HR: 63 (57 - 96) bpm
   BP: 98/49(60) {83/42(52) - 154/79(98)} mmHg
   RR: 16 (15 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.6 kg (admission): 55 kg
             Total In:
                                                                  3,861 mL
                                                                    861 mL
   PO:
             TF:
   IVF:
                                                                  3,801 mL
                                                                    861 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    215 mL
   Urine:
                                                                    340 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,521 mL
                                                                    646 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 412 (300 - 426) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 19 cmH2O
   Plateau: 13 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 98%
   Ve: 7.2 L/min
   Physical Examination
   General: Awake, in no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Course breath sounds bilaterally, left sided rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: + foley with brown sediment
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   .
   Labs / Radiology
   318 K/uL
   8.0 g/dL
   66 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.7 mEq/L
   67 mg/dL
   117 mEq/L
   151 mEq/L
   27.2 %
   11.3 K/uL
        [image002.jpg]
                             [**2182-5-20**]  02:40 PM
                             [**2182-5-20**]  11:01 PM
                             [**2182-5-21**]  04:36 AM
   WBC
   11.3
   Hct
   27.2
   Plt
   318
   Cr
   2.7
   2.4
   2.2
   TropT
   1.47
   1.70
   Glucose
   405
   170
   66
   Other labs: PT / PTT / INR:13.5/117.4/1.2,
    CK / CKMB / Troponin-T:254 (345 to 277) / 14 (23 to 14) /1.79 (0.62 to
   1.47 to 170),
   Differential-Neuts:87.7 %, Lymph:7.9 %, Mono:4.2 %, Eos:0.1 %,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Micro:
   -          sputum legionella: negative
   -          Sputum GS,CX:  gram positive cocci in clusters
   -          Blood CX:
 gram positive cocci in clusters
   Assessment and Plan
   62 year old man with history of anoxic brain injury, type one diabetes
   and recurrent aspiration PNA s/p tracheostomy who presents after
   witnessed aspiration event with pneumonia, DKA, and NSTEMI.
   1. Pneumonia:  Patient with a history of aspiration pneumonia has
   witnessed aspiration event at rehab facility now with worsening
   hypoxia, fever, elevated WBC, left sided infiltrate on imaging
   consistent with pneumonia.  Pt was treated for prior PNA with
   Cefepime/Azithromycin which ended [**2182-5-13**].  Sputum growing gram positive
   cocci.
   - NPO with NGT (appears to be post-pyloric)
   - abx with vanc/cefepime/flagyl to cover aspiration
   - f/u sputum culture speciation and sensitivity
   - consider long term feeding with g-tube, will discuss with family and
   address GOC
   - hold on steroids for now but will continue home dose of prednisone
   4mg PO qday
   - hold on PPI given current pneumonia
   - consult nutrition for tube feed recommendations
   .
   2. NSTEMI: Patient with new T wave inversions anteriorly and elevated
   cardiac biomarkers.  Cardiac enzymes still rising this AM
   - f/u cardiac biomarkers
   - TTE today
   - EKG this AM
   - heparin gtt for 48 hours (to end [**2182-5-22**] @ 1900)
   - add on lipid panel from admission labs
   - change pravastatin to atorvastatin
   - continue aspirin 325mg daily
   .
   3.Diabetic Ketoacidosis: Patient with hyperglycemia, anion gap in the
   twenties, and ketones in the urine on admission.  Precipitant likely
   infection, ischemia.  Patient treated with insulin gtt with closure of
   anion gap and return to normoglycemia.
   - continue home dose glargine
   - continue insulin gtt while receiving D5W
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] recs
   .
   4. Acute renal failure: Baseline creatinine 1-1.3, now with acute renal
   failure with creatinine of 2.2.  FeNa 0.2. Likely pre-renal with
   dehydration due to osmotic diuresis in the setting of DKA.  Improved
   somewhat since admission following IVF.
   - renally dose medication
   - hold nephrotoxic medication (enalapril)
   - renal transplant recs
   - trend creatinine
   - continue IVF @ 100cc D5W
   - Xray with pulmonary edema; will try Bumex today and monitor UOP
   closely.
   .
   5. Bacteremia
 GPC in cocci from admission cultures.
   - continue vanc/cefepime/flagyl
   - f/u speciation/sensitivities.
   - attempt PIVs.  If possible, will remove PICC line.
   - consider ID consult after speciation
   .
   5.Hypernatremia:  Likely due to decreased access to free water.  Free
   water deficit calculated at 3L
   - D5W @ 100 cc/hr
   - Q6 hr chemistry to monitor sodium correction
   .
   6. Immunosuppression: s/p cadaveric renal transplant [**2175**]
   - check tacrolimus level (goal last admission [**4-13**])
   - continue tacrolimus at current dose
   - continue prednisone
   - f/u transplant recs
   - continue bactrim ppx
   .
   7. Recurrent UTI: s/p 7 days of Cipro, last day to be [**5-20**]
   - broad spectrum abx as above
   - f/u urine cultures
   .
   # FEN: 1L IV bolus, replete electrolytes, Free water via OGT
   # Prophylaxis: Subcutaneous heparin
   # Access: PICC line
   # Communication: Wife and daughter
   # Code:  Full per prior admission
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2182-5-20**] 02:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2182-05-21 09:55:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo Russian speaking only, presents with respiratory failure, DKA,
   and NSTEMI.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2182-5-20**] 08:00 AM
 SPUTUM CULTURE - At [**2182-5-20**] 09:50 AM
 NASAL SWAB - At [**2182-5-20**] 10:51 AM
 BRONCHOSCOPY - At [**2182-5-20**] 02:19 PM
   trach changed. bal done. 25 mcg fent and .5 mg midaz given
 PICC LINE - START [**2182-5-20**] 02:23 PM
 EKG - At [**2182-5-20**] 05:38 PM
 FEVER - 101.3
F - [**2182-5-20**] 08:15 AM
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2182-5-21**] 02:26 AM
   Cefipime - [**2182-5-21**] 05:33 AM
   Infusions:
   Insulin - Regular - 2.5 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2182-5-20**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2182-5-20**] 12:00 PM
   Midazolam (Versed) - [**2182-5-20**] 02:15 PM
   Fentanyl - [**2182-5-20**] 02:15 PM
   Heparin Sodium - [**2182-5-20**] 08:15 PM
   Other medications:
   MMF
   pred 4mg
   FK506
   seroquel
   lopressor
   fluvoxamine
   pravastatin
   heparin drip
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-21**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.9
C (98.5
   HR: 63 (57 - 96) bpm
   BP: 97/49(60) {83/42(52) - 149/77(94)} mmHg
   RR: 19 (15 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.6 kg (admission): 55 kg
             Total In:
                                                                  3,861 mL
                                                                  1,161 mL
   PO:
             TF:
   IVF:
                                                                  3,801 mL
                                                                  1,161 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    365 mL
   Urine:
                                                                    340 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,521 mL
                                                                    796 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 390 (300 - 426) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, moving extremities, nodding to voice
   Labs / Radiology
   8.0 g/dL
   318 K/uL
   66 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.7 mEq/L
   67 mg/dL
   117 mEq/L
   151 mEq/L
   27.2 %
   11.3 K/uL
        [image002.jpg]
                             [**2182-5-20**]  02:40 PM
                             [**2182-5-20**]  11:01 PM
                             [**2182-5-21**]  04:36 AM
   WBC
   11.3
   Hct
   27.2
   Plt
   318
   Cr
   2.7
   2.4
   2.2
   TropT
   1.47
   1.70
   1.79
   Glucose
   405
   170
   66
   Other labs: PT / PTT / INR:13.5/117.4/1.2, CK / CKMB /
   Troponin-T:254/12/1.79, Differential-Neuts:87.7 %, Lymph:7.9 %,
   Mono:4.2 %, Eos:0.1 %, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   Respiratory failure:  CXR looks more like pulmonary edema.  Will
   diurese with bumex given lasix allergy.
   HAP:  Has sputum with GPCs, and blood cx. times one with GPCs.
   Continue Vanco, cefepime until speciation.
   NSTEMI:  will check echo today.  Continue heparin, ASA for now.
   DKA.  gap closed. Continue insulin drip, as he needs free water.
   hypernatremia:  can also start free water per NGT.  Likely to worsen
   with diuresis
   start TFs.
   PIC line needs to be removed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2182-5-20**] 02:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2182-05-23 07:10:00 Physician Resident Progress Note
TITLE:
   s
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2182-5-22**] 01:42 PM
 PICC LINE - STOP [**2182-5-22**] 02:26 PM
   - Cards consult; possible catheterization on Monday. Discussed with
   daughter who believes patient would want to undergo this procedure. Can
   transfer to [**Hospital1 2259**] when stable for floor.
   - Nutrition: switched to Novasource/beneprotein TF with 250 cc water
   q4h for hypernatremia (equivalent to 60 cc/hr, per renal recs)
   - Renal recs: need 60 ml/hr free h20 for 1.8L deficit; also may
   consider stopping cellcept and continuing on 2 dose immunosuppresive
   regimen (prednisone/tacrolimus) once Cr is stable (so that can monitor
   for rejection by Cr level), given high risk for infections
   - Stopped vanc/cefepime/flagyl given hypoxia likely due to fluid
   overload, not PNA
   - Started ceftriaxone [**5-22**] for UTI with GNRs (7 day course); cx
   returned susceptible to ceftriaxone/cefepime.  Patient with likely drug
   rash to ceftriaxone with erythematous, blanching rash on bilateral
   upper extremities and trunk. Received fexofenadine and discontinued
   ceftriaxone and restarted cefepime.
   - On bumex for goal 1-2 L neg fluid balance today
   - PICC pulled today given [**2-11**] GPCs, will culture tip and repeat
   peripheral blood cx
   - heparin gtt discontinued (received 48 hrs)
   - Interpreter visited; [**Name8 (MD) **] RN pt was fully alert, oriented, following
   commands
   - Invasive ventilation stopped.
   - Paged CM ([**Numeric Identifier 12156**]) to discuss dispo planning; she will d/w rehab
   - overnight was hypoglycemic to 41; received 1 amp of D50.
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2182-5-22**] 06:02 AM
   Vancomycin - [**2182-5-22**] 08:45 AM
   Metronidazole - [**2182-5-22**] 10:45 AM
   Ceftriaxone - [**2182-5-22**] 01:44 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-5-23**] 04:09 AM
   Dextrose 50% - [**2182-5-23**] 04:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-23**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 68 (54 - 80) bpm
   BP: 81/49(56) {81/23(42) - 138/83(91)} mmHg
   RR: 19 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.7 kg (admission): 55 kg
   Height: 65 Inch
                  Total In:
                                                                  1,647 mL
                                                                    382 mL
   PO:
                  TF:
                                                                    766 mL
                                                                    357 mL
   IVF:
                                                                    821 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    780 mL
   Urine:
                                                                  2,650 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,003 mL
                                                                   -398 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (459 - 467) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 6.2 L/min
   Physical Examination
   Neuro: pt asleep, not arousable to loud voice. On humidified oxygen to
   trach collar, not on vent.
   HEENT: MMM
   CV: Regular rhythm, normal rate, no m/r/g
   Pulm: CTAB
   Ab: soft, NT, ND, bowel sounds present
   Extremities: warm, no edema
   GU: Foley
   Labs / Radiology
   342 K/uL
   9.2 g/dL
   68 mg/dL
   1.4 mg/dL
   29 mEq/L
   3.9 mEq/L
   44 mg/dL
   111 mEq/L
   147 mEq/L
   30.5 %
   5.2 K/uL
        [image002.jpg]
                             [**2182-5-20**]  02:40 PM
                             [**2182-5-20**]  11:01 PM
                             [**2182-5-21**]  04:36 AM
                             [**2182-5-21**]  01:59 PM
                             [**2182-5-22**]  04:03 AM
                             [**2182-5-23**]  05:27 AM
   WBC
   11.3
   8.4
   5.2
   Hct
   27.2
   28.2
   30.5
   Plt
   [**Telephone/Fax (3) 12157**]
   Cr
   2.7
   2.4
   2.2
   1.8
   1.6
   1.4
   TropT
   1.47
   1.70
   1.79
   1.36
   1.35
   1.58
   Glucose
   [**Telephone/Fax (2) 12148**]7
   84
   68
   Other labs: PT / PTT / INR:12.1/34.7/1.0, CK / CKMB /
   Troponin-T:70/5/1.58, ALT / AST:26/40, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:87.7 %, Lymph:7.9 %, Mono:4.2 %, Eos:0.1 %,
   Albumin:3.4 g/dL, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Tacro
 pending
   Lipids (added on to admit labs)
 pending
   Micro
   [**5-20**] Sputum GPCs, sparse commensals on culture (final), fungal
 prelim
   [**5-20**] urine legionella negative
   [**5-22**] blood culture pending
   [**5-22**] PICC tip
 pending
   [**5-20**] urine cx
 E Coli > 100K, sensitive to ceftriaxone, cefepime
   [**5-23**] CXR
 pending
   [**5-22**] CXR
 unsigned
   Assessment and Plan
   62 year old man with history of multiple strokes, type one diabetesI
   and recurrent aspiration PNA s/p tracheostomy who presents after
   witnessed aspiration event with DKA and NSTEMI.
   #. Hypoxia: Hypoxia felt most likely due to acute aspiration event (but
   without development of aspiration pneumonia) and/or from volume
   overload in setting of CHF flare (c/w CXR findings) in setting of
   NSTEMI (though pt not volume overloaded on exam).
   Patient does have a history of aspiration pneumonia with possible
   aspiration event at rehab facility and mild fever and elevated WBC on
   presentation (both resolved now and may be explained by UTI), left
   sided infiltrate on imaging consistent with atelectasis.  Pt was
   treated for prior PNA with Cefepime/Azithromycin which ended [**2182-5-13**].
   Sputum growing gram positive cocci but culture with sparse commensals
   only.
   -  Initially treated with abx with vanc/cefepime/flagyl to cover
   aspiration pending speciation of sputum ([**Date range (1) 12158**]); discontinued as
   felt presentation more c/w fluid overload vs pneumonia
   - Bumex for pulmonary edema for goal even I/Os today (dose PRN)
   #. NSTEMI: Patient with new T wave inversions anteriorly and elevated
   cardiac biomarkers.  Cardiac enzymes now trending down but troponin
   slightly up today [**5-23**]
   - f/u cardiac biomarkers
   - Daily EKG
   - TTE with new abnormality in inferolateral wall
   - Appreciate cardiology recs: will accept pt for cath on Monday and
   transfer of pt to service; team requests description of pt
s anatomy
   s/p CABG
   - heparin gtt for 48 hours (ended [**5-22**])
   - Follow-up lipid panel from admission labs
   - Continue lopressor, ASA, enalapril, statin
   .
   # GPC in
 bottles: coag-negative staph; most likely contaminant vs
   PICC colonization. PICC pulled [**5-22**].
   - follow up culture results (repeat blood cultures from [**5-22**] and PICC
   tip culture)
   - Request new PICC placement today?
   .
   # Diabetic Ketoacidosis: Patient with hyperglycemia, anion gap in the
   twenties, and ketones in the urine on admission.  Precipitant likely
   infection vs ischemia.  Patient treated with insulin gtt with closure
   of anion gap and return to normoglycemia.
   - continue home dose glargine, increased to 30 [**First Name8 (NamePattern2) **] [**Last Name (un) **] recs but
   episode of hypoglycemia in AM [**5-23**]: will decrease back to 25 tonight
   - continue home sliding scale
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] recs
   .
   #. Acute renal failure: Baseline creatinine 1-1.3, presented with acute
   renal failure to Cr 2.2, now resolving.  FeNa 0.2. Likely pre-renal
   with dehydration due to osmotic diuresis in the setting of DKA.
   - renally dose medication
   - Enalapril restarted [**5-22**] (discussed with renal); will hold today in
   order to allow for BB (pressures drop to 80s with both meds)
   - renal transplant recs: monitor CK in setting of pravastatin and
   tacrolimus interaction
   - trend creatinine
   - [**Hospital1 **] electrolytes
   .
   #.Hypernatremia:  Likely due to decreased access to free water.  Free
   water deficit calculated at 3L
   - Renal recs: transition to free water boluses by tube feed as
   tolerated: pt receiving 250 cc q6h, but remains hypernatremic. Plan to
   increase to 250 cc q4h.
   - Q6 hr chemistry to monitor sodium correction
   - Bumex as above
   .
   #. Immunosuppression: s/p cadaveric renal transplant [**2175**]
   - check tacrolimus level (goal last admission [**4-13**])
   - continue tacrolimus at current dose
   - continue prednisone, cellcept
   - f/u transplant recs
   - continue bactrim ppx
   .
   #. Recurrent UTI: s/p 7 days of Cipro, last day to be [**5-20**]. Now with E.
   Coli UTI.
   - Cefepime 1gm IV q 24 hours day 1 = [**5-20**], 7 day course to end [**5-27**]
   - Confirm foley was replaced
   # FEN: Replete electrolytes, TFs (novasource with free water flushes)
   # Prophylaxis: Subcutaneous heparin; PPI; pneumoboots; change colace to
   PRN
   # Access: PIV
   # Communication: Wife and daughter
   # Code:  Full per prior admission, not yet discussed again with family
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-5-23**] 04:39 AM 50 mL/hour
   Glycemic Control:  see above
   Lines:
   20 Gauge - [**2182-5-22**] 08:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2182-05-24 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - make sure to let accepting team know that drops pressures w/
   metoprolol
   - called medical records at [**Numeric Identifier 12173**] and they will begin looking through
   the 5 volumes of the [**Hospital 480**] medical records for the year [**2170**] to look for
   his op report for his CABG; they will fax it to the MICU on the [**Location (un) 12174**].
   - renal recs: free water 400 ml q4 or 200 ml q2
   - nutrition recs: Boost Glucose Control @ 65mL/hr (1654kcals, 90g
   protein).
   - [**Last Name (un) **] recs: do not stack insulin bolus (no repeat use of ss w/in 4
   hours since last dose); reduce lantus from 30 to 28; increase sliding
   scale by 1 unit per interval but only give q6h with possible additional
   correction if needed (and only if it is >4 hours since last bolus)
   - speech and swallow: patient able to speak with valve, answered
   questions about his pain, AOx1, singing songs/quoting poetry. Recs: 1.
   ALWAYS DEFLATE CUFF PRIOR TO PLACING THE PASSY-MUIR VALVE! 2.  Monitor
   O2 Sats / respiration while valve is in place. 3.  Do not allow the
   patient to sleep with the valve in place. 4.  PMV wear schedule is up
   to the discretion of the nurse and/or respiratory therapist. 5.  Video
   swallow tomorrow for further evaluation. Remain NPO until then.
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2182-5-22**] 08:45 AM
   Metronidazole - [**2182-5-22**] 10:45 AM
   Ceftriaxone - [**2182-5-22**] 01:44 PM
   Cefipime - [**2182-5-23**] 08:35 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2182-5-23**] 08:03 AM
   Dextrose 50% - [**2182-5-23**] 10:15 AM
   Heparin Sodium (Prophylaxis) - [**2182-5-23**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-24**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 60 (60 - 78) bpm
   BP: 129/38(60) {81/17(30) - 139/61(70)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.7 kg (admission): 55 kg
   Height: 65 Inch
                  Total In:
                                                                  3,185 mL
                                                                  1,055 mL
   PO:
                  TF:
                                                                  1,155 mL
                                                                    245 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                    570 mL
   Urine:
                                                                  2,110 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,075 mL
                                                                    485 mL
   Respiratory support
   O2 Delivery Device: Trach mask 40% humidified air
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   Neuro: pt asleep, not arousable to loud voice. On humidified oxygen to
   trach collar, not on vent.
   HEENT: MMM
   CV: Regular rhythm, normal rate, no m/r/g
   Pulm: coarse breath sounds throughout, without wheeze/rhonchi
   Ab: soft, NT, ND, bowel sounds present
   Extremities: warm, no edema
   GU: Foley draining clear yellow urine
   Labs / Radiology
   326 K/uL
   9.5 g/dL
   98 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.8 mEq/L
   36 mg/dL
   107 mEq/L
   144 mEq/L
   31.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2182-5-20**]  02:40 PM
                             [**2182-5-20**]  11:01 PM
                             [**2182-5-21**]  04:36 AM
                             [**2182-5-21**]  01:59 PM
                             [**2182-5-22**]  04:03 AM
                             [**2182-5-23**]  05:27 AM
                             [**2182-5-23**]  04:38 PM
                             [**2182-5-24**]  05:38 AM
   WBC
   11.3
   8.4
   5.2
   5.1
   Hct
   27.2
   28.2
   30.5
   31.7
   Plt
   [**Telephone/Fax (3) 12175**]26
   Cr
   2.7
   2.4
   2.2
   1.8
   1.6
   1.4
   1.3
   1.1
   TropT
   1.47
   1.70
   1.79
   1.36
   1.35
   1.58
   Glucose
   [**Telephone/Fax (2) 12148**]7
   84
   68
   179
   98
   Other labs: PT / PTT / INR:11.7/31.1/1.0, CK / CKMB /
   Troponin-T:70/5/1.58, ALT / AST:26/40, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:87.7 %, Lymph:7.9 %, Mono:4.2 %, Eos:0.1 %,
   Albumin:3.4 g/dL, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   [**5-23**] cholesterol 154, TG 114, HDL 55, LDL 76, Chol/HD 2.8
   [**5-22**] blood culture pending, PICC catheter tip culture pending
   [**5-20**] urine with >100K E. Coli
   [**5-20**] blood cx with
 coag neg staph
   [**5-23**] speech and swallow study
 pending
   [**5-23**] CXR - As compared to the previous radiograph, the lung volumes
   have slightly increased, potentially reflecting improved ventilation or
   increased ventilatory pressures. No evidence of newly occurred focal
   parenchymal opacities, but the retrocardiac atelectasis and the right
   medial basal opacities with air bronchograms are unchanged in extent.
   Presence of a minimal bilateral pleural effusion cannot be excluded.
   Unchanged size of the cardiac silhouette.
   [**5-24**] CXR
 pending
   Assessment and Plan
   62 year old man with history of multiple strokes, type one diabetesI
   and recurrent aspiration PNA s/p tracheostomy who presents after
   possible  aspiration event with hypoxia, DKA and NSTEMI.
   .
   #. Hypoxia: Hypoxia felt most likely due to acute aspiration event (but
   without development of aspiration pneumonia) and/or from volume
   overload in setting of CHF flare (c/w CXR findings, though pt not
   volume overloaded on exam) in setting of NSTEMI.
   Patient does have a history of aspiration pneumonia with possible
   aspiration event at rehab facility and mild fever and elevated WBC on
   presentation (both resolved now and may be explained by UTI), left
   sided infiltrate on imaging consistent with atelectasis.  Pt was
   treated for prior PNA with Cefepime/Azithromycin which ended [**2182-5-13**].
   Sputum growing gram positive cocci but culture with sparse commensals
   only.
   -  Treated with vanc/cefepime/flagyl to cover aspiration PNA pending
   speciation of sputum ([**Date range (1) 12158**]); discontinued as felt presentation
   more c/w fluid overload vs pneumonia
   - Exam much improved today; oxygen requirement decreasing: wean as
   tolerated
   - Bumex for pulmonary edema for goal even I/Os today (dose PRN)
   #. NSTEMI: Patient with new T wave inversions anteriorly and elevated
   cardiac biomarkers.  Cardiac enzymes now trending down but troponin
   slightly up 4/15. TTE with new abnormality in inferolateral wall.
   Lipids wnl (LDL 76).
   - Recheck cardiac biomarkers this afternoon; if still elevated will
   begin to trend
   - Daily EKG
   - Appreciate cardiology recs: will accept pt for cath on Monday and
   transfer of pt to service; team requests description of pt
s anatomy
   s/p CABG (have [**Name (NI) 420**] medical records office; awaiting report)
   - Received heparin gtt for 48 hours (ended [**5-22**])
   - Continue lopressor and uptitrate to home dose, ASA, statin; add back
   enalopril as tolerated by blood pressure
   .
   # GPC in
 bottles: coag-negative staph; most likely contaminant vs
   PICC colonization. PICC pulled [**5-22**].
   - follow up culture results (repeat blood cultures from [**5-22**] and PICC
   tip culture)
   .
   # Diabetic Ketoacidosis: Patient with hyperglycemia, anion gap in the
   twenties, and ketones in the urine on admission.  Precipitant likely
   infection vs ischemia.  Patient treated with insulin gtt with closure
   of anion gap and return to normoglycemia.
   - continue home dose glargine, increased to 30 [**First Name8 (NamePattern2) **] [**Last Name (un) **] recs but
   episode of hypoglycemia in AM [**5-23**]: decreased back to 25 last night
   - [**Last Name (un) 276**] recs from yesterday: do not stack insulin bolus (no repeat use
   of ss w/in 4 hours since last dose); reduce lantus from 30 to 28;
   increase sliding scale by 1 unit per interval but only give q6h with
   possible additional correction if needed (and only if it is >4 hours
   since last bolus)
   - continue home sliding scale
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] recs
   .
   #. Acute renal failure: Baseline creatinine 1-1.3, presented with acute
   renal failure to Cr 2.2, now resolved.  FeNa 0.2. Likely pre-renal with
   dehydration due to osmotic diuresis in the setting of DKA.
   - Renally dose medications
   - Enalapril okay to restart per renal team
   - renal transplant recs: monitor CK in setting of pravastatin and
   tacrolimus interaction
 will recheck qod
   .
   #.Hypernatremia:  Likely due to decreased access to free water.  Free
   water deficit calculated at 3L initially.
   - Renal recs: Pt receiving free water boluses, 250 cc q2h
   - [**Hospital1 **] Na to monitor sodium correction
   - Bumex to maintain even fluid balance
   .
   #. Immunosuppression: s/p cadaveric renal transplant [**2175**]
   - check tacrolimus level (goal last admission [**4-13**])
   - continue prednisone, cellcept, tacrolimus
   - f/u transplant recs
   - continue bactrim ppx
   .
   #. Recurrent UTI: s/p 7 days of Cipro for previous UTI, last day to be
   [**5-20**]. Now with E. Coli UTI on [**5-20**]. Pan-resistant except to
   nitrofurantoin (contraindicated in renal insufficiency) and cefepime,
   ceftriaxone, ceftaz.
   - Cefepime 1gm IV q 24 hours (day 1 = [**5-20**], 7 day course to end [**5-27**])
   .
   # FEN: Replete electrolytes, TFs (novasource with free water flushes).
   Check CXR for tube placement given pt may have dislodged it yesterday.
   Speech and swallow video study pending; pt may need PEG for permanently
   feeding solution given recurrent silent aspiration events in past.
   # Prophylaxis: Subcutaneous heparin; PPI; pneumoboots
   # Access: PIV
   # Communication: Wife and daughter
   # Code:  Full per prior admission, not yet discussed again with family
   # Disposition: Call out to cardiology. PT consult made.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-5-24**] 12:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2182-05-24 13:18:00 Physician Attending Progress Note
Chief Complaint: respiratory faiulre
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo man with trach, admitted with STEMI, pulmonary edema, respiratory
   failure.  PMV with interpreter yesterday revealed that he is
   communicative, interactive, but delirious, AXO times 1
   24 Hour Events:
 CALLED OUT
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2182-5-22**] 08:45 AM
   Metronidazole - [**2182-5-22**] 10:45 AM
   Ceftriaxone - [**2182-5-22**] 01:44 PM
   Cefipime - [**2182-5-24**] 09:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-5-23**] 09:00 PM
   Other medications:
   insulin
   lopressor
   pravastatin
   prevacid
   bactrim
   colace
   FK506
   fluvoxamin
   fexofenidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Nausea
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Heme / Lymph: Anemia
   Psychiatric / Sleep: No(t) Agitated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2182-5-24**] 01:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 68 (60 - 78) bpm
   BP: 140/52(84) {81/22(30) - 141/70(86)} mmHg
   RR: 17 (9 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.7 kg (admission): 55 kg
   Height: 65 Inch
             Total In:
                                                                  3,185 mL
                                                                  1,165 mL
   PO:
             TF:
                                                                  1,155 mL
                                                                    245 mL
   IVF:
                                                                     50 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                    760 mL
   Urine:
                                                                  2,110 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,075 mL
                                                                    405 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   326 K/uL
   98 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.8 mEq/L
   36 mg/dL
   107 mEq/L
   144 mEq/L
   31.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2182-5-20**]  02:40 PM
                             [**2182-5-20**]  11:01 PM
                             [**2182-5-21**]  04:36 AM
                             [**2182-5-21**]  01:59 PM
                             [**2182-5-22**]  04:03 AM
                             [**2182-5-23**]  05:27 AM
                             [**2182-5-23**]  04:38 PM
                             [**2182-5-24**]  05:38 AM
   WBC
   11.3
   8.4
   5.2
   5.1
   Hct
   27.2
   28.2
   30.5
   31.7
   Plt
   [**Telephone/Fax (3) 12175**]26
   Cr
   2.7
   2.4
   2.2
   1.8
   1.6
   1.4
   1.3
   1.1
   TropT
   1.47
   1.70
   1.79
   1.36
   1.35
   1.58
   Glucose
   [**Telephone/Fax (2) 12148**]7
   84
   68
   179
   98
   Other labs: PT / PTT / INR:11.7/31.1/1.0, CK / CKMB /
   Troponin-T:70/5/1.58, ALT / AST:26/40, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:87.7 %, Lymph:7.9 %, Mono:4.2 %, Eos:0.1 %,
   Albumin:3.4 g/dL, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Microbiology: urine cx [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 12177**]
   blood cx [**5-20**] - [**2-9**] coag neg staph
   Assessment and Plan
   hypoxemia:  pulmonary edema, NSTEMI.  Improved.  Bumex to keep him
   even.
   NSTEMI:  continue asa, lopressor, can add ACE-I.
   PIC line colonization:  no evidence of bacteremia, so not treating.
   DM:  no further hypoglycemia episodes.  Continue current regimen.
   Renal failure:  Back to baseline.
   hypernatremia:  continue free H20 250 q4h.
   UTI: on cefepime for 7 days.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-5-24**] 12:10 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes